US09062028B2
Step G. tert-Butyl 3-((3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyloxy)carbonylamino)propanoate
The title compound was prepared using a procedure analogous to 4-(2,3-dimethylphenoxy)-1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one except that 1-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one was replaced with tert-butyl 3-((3-bromobenzyloxy)carbonylamino)propanoate. LCMS, [M+Na]+=428.2.

reactant | 4-(2,3-dimethylphenoxy)-1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroquinolin-1(2H)-yl)butan-1-one | CC1=C(OCCCC(=O)N2CCCC3=C(C=CC=C23)B2OC(C(O2)(C)C)(C)C)C=CC=C1C | C27H36BNO4
reactant | 1-(5-bromo-3,4-dihydroquinolin-1(2H)-yl)-4-(2,3-dimethylphenoxy)butan-1-one | BrC1=C2CCCN(C2=CC=C1)C(CCCOC1=C(C(=CC=C1)C)C)=O | C21H24BrNO2
reactant | tert-butyl 3-((3-bromobenzyloxy)carbonylamino)propanoate | BrC=1C=C(COC(=O)NCCC(=O)OC(C)(C)C)C=CC1 | C15H20BrNO4
product | tert-Butyl 3-((3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzyloxy)carbonylamino)propanoate | CC1(OB(OC1(C)C)C=1C=C(COC(=O)NCCC(=O)OC(C)(C)C)C=CC1)C | C21H32BNO6
